US07250479B2
S-t-butyl Thiobenzoate t-Butyl Mercaptan (6.15 g, 0.068 mol) was added dropwise to a solution of benzoyl chloride (10.5 g, 0.075 mol) in pyridine (6 g). The resulting mixture was allowed to stir for two hours at room temperature then poured onto ice-water and the mixture extracted with diethyl ether. The organic extract was washed with dilute HCl, water and brine and finally dried over anhydrous sodium sulfate. After removal of solvent and vacuum distillation, S-t-butyl thiobenzoate was obtained (6.64 g, 50.1% yield), b.p. 86° C. (0.8 mmHg). 1H-nmr (CDCl3) d (ppm): 1.60 (s, 9H, 3×CH3), 7.41 (m, 2H, ArH), 7.54 (m, 1H, ArH) and 7.94 (d, 2H, ArH). 13C-nmr (CDCl3) d (ppm): 29.8, 48.0, 126.8, 128.3, 132.7, 138.6 and 192.9. ii) t-Butyl Dithiobenzoate

reactant | S-t-butyl Thiobenzoate t-Butyl Mercaptan | 0.068 mol, 6.15 g | C(C)(C)(C)S.C(C1=CC=CC=C1)(=O)SC(C)(C)C
reactant | benzoyl chloride | 0.075 mol, 10.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 6 g | N1=CC=CC=C1 | C5H5N
product | S-t-butyl thiobenzoate | 50.1% yield | C(C1=CC=CC=C1)(=O)SC(C)(C)C | C11H14OS
